US04668686
DL-N-(Aminocarbonyl)-2,3-dimethyl-6-nitrophenylalanine Potassium cyanate (17.5 g, 0.21 mol) was added to stirred solution of DL-2,3-dimethyl-6-nitrophenylalanine hydrochloride (15 g, 0.05 mol) in water (125 mL). The mixture was heated on a steam bath for 30 minutes, cooled and acidified with 2N hydrochloric acid solution. The precipitate was filtered off, washed with water and dried in air to give DL-N-(aminocarbonyl)-2,3-dimethyl-6-nitrophenylalanine as a hydrate (16.0 g, 100%), m.p. 223°-224° C. (dec). Spectral data were in accord with the assigned structure.

reactant | N-(Aminocarbonyl)-2,3-dimethyl-6-nitrophenylalanine Potassium cyanate | 0.21 mol, 17.5 g | [O-]C#N.[K+].NC(=O)N[C@@H](CC1=C(C(=CC=C1[N+](=O)[O-])C)C)C(=O)O
reactant | 2,3-dimethyl-6-nitrophenylalanine hydrochloride | 0.05 mol, 15 g | Cl.CC1=C(C[C@H](N)C(=O)O)C(=CC=C1C)[N+](=O)[O-]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 125 mL | O | H2O
product | N-(aminocarbonyl)-2,3-dimethyl-6-nitrophenylalanine | NC(=O)N[C@@H](CC1=C(C(=CC=C1[N+](=O)[O-])C)C)C(=O)O | C12H15N3O5
